US06583156B1
2,8-Bis(trifluoromethyl)-α-(3-hydroxyphenyl)-4-quinolinemethanol
A solution of α-(3-benzyloxyphenyl)-2,8-bis(trifluoromethyl)-4-quinolinemethanol (80 mg, 0.17 mmol) in EtOH (4 mL) was treated with 10% Pd/C (5 mg), hydrogenated for 2 h, filtered to remove the catalyst, concentrated in vacuo and the resulting oil purified by chromatography [SiO2; heptane-EtOAc (1:1)] to give the title compound (36 mg, 53%) as an oil: NMR δH (400 MHz, CDCl3) 5.35 (1H, br s), 6.45 (1H, s), 6.65-6.80 (2H, m), 6.91 (1H, d, J 10.0 Hz), 7.21 (1H, t, J 7.0 Hz), 7.59 (1H, t, J 9.0 Hz), 8.12 (2H, t, J 9.0 Hz) and 8.22 (1H, s).

reactant | α-(3-benzyloxyphenyl)-2,8-bis(trifluoromethyl)-4-quinolinemethanol | 0.17 mmol, 80 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(O)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C25H17F6NO2
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 2,8-Bis(trifluoromethyl)-α-(3-hydroxyphenyl)-4-quinolinemethanol | 36 mg, 53% | FC(C1=NC2=C(C=CC=C2C(=C1)C(O)C1=CC(=CC=C1)O)C(F)(F)F)(F)F | C18H11F6NO2
